Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain and diarrhea 
 
Major Surgical or Invasive Procedure:
sigmoidoscopy

 
History of Present Illness:
Ms. ___ is a ___ woman with history of
inflammatory bowel disease (thought to be Crohn's), history of
appendectomy complicated by colonic perforation, hidradenitis
suppurativa, cholelithiasis, IMPN presenting with abdominal 
pain.

Please see the ___ clinic note dated ___ for
complete history of this patient's inflammatory bowel disease.
This was the patient's last office visit with gastroenterology,
although she did have a colonoscopy on ___ that showed
colitis throughout the colon. She has been maintained on Apriso
(she had been taking 3 tablets daily prior to the present 
flare).

She reports that she was in her usual state of health until 
about
3 days prior to presentation. She was helping her daughter move
to ___, ___ when she developed bilateral lower
abdominal cramping, worse on the left, and multiple episodes of
non-bloody loose stool, up to 10 bowel movements per day. She
reports temperatures of up to 99 at home; no chills. No sick
contacts, no recent antibiotic use. No nausea or vomiting. Her
symptoms felt similar to prior flares, and she increased her
Apriso to 4 tablets (0.375 mg each) per day without effect. She
has taken Tylenol for pain but this has not helped much. She 
does
not use NSAIDS and quit smoking ___ years ago.

She called her gastroenterologist on ___ to report these
symptoms, and at that time basic lab work was sent that was
notable for CRP 76. Stool studies sent and negative for C. diff.
She subsequently was referred to the ED for further management.

In the ED, vitals: 98.4 117 107/63 19 97% RA 
Labs notable for: WBC 13, Na 133
Imaging: AXR, CXR
Patient given: Methlyprednisolone 20 mg IV, morphine 4 mg IVx2,
Tylenol ___ mg, 1L NS

On arrival to the floor, she report that her abdominal pain is
slightly improved. She denies any other complaints at this time.

 
Past Medical History:
- Hypertension
- Hyperlipidemia
- Vulvar cancer s/p vulvectomy
- Appendectomy complicated by prolonged ICU stay at ___ with
perforated colon, ARDS
- Vitamin D deficiency
- Hydradenitis suppurativa
- Cholelithiasis
- IPMN

 
Social History:
___
Family History:
Grandfather with colon cancer.

 
Physical Exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non tender. Bowel sounds 
present.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect

 
Pertinent Results:
___ 03:34PM BLOOD WBC-11.9* RBC-4.07 Hgb-13.6 Hct-43.1 
MCV-106* MCH-33.4* MCHC-31.6* RDW-14.6 RDWSD-56.8* Plt ___
___ 08:05AM BLOOD WBC-11.0* RBC-3.71* Hgb-12.4 Hct-38.7 
MCV-104* MCH-33.4* MCHC-32.0 RDW-14.2 RDWSD-54.3* Plt ___
___ 06:48AM BLOOD WBC-7.1 RBC-3.79* Hgb-12.6 Hct-39.4 
MCV-104* MCH-33.2* MCHC-32.0 RDW-14.3 RDWSD-54.6* Plt ___
___ 03:34PM BLOOD Neuts-74.2* Lymphs-17.3* Monos-7.5 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-8.86* AbsLymp-2.06 
AbsMono-0.89* AbsEos-0.03* AbsBaso-0.03
___ 07:46PM BLOOD Neuts-79.4* Lymphs-12.0* Monos-7.7 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-10.35* AbsLymp-1.56 
AbsMono-1.00* AbsEos-0.02* AbsBaso-0.02
___ 07:46PM BLOOD Glucose-124* UreaN-9 Creat-0.6 Na-133* 
K-3.7 Cl-100 HCO3-19* AnGap-14
___ 06:48AM BLOOD Glucose-124* UreaN-10 Creat-0.6 Na-141 
K-4.4 Cl-100 HCO3-25 AnGap-16
___ 06:48AM BLOOD ALT-13 AST-12 AlkPhos-91 TotBili-0.2
___ 08:05AM BLOOD Calcium-8.3* Phos-3.3 Mg-1.8
___ 03:34PM BLOOD CRP-76.3*
___ 08:05AM BLOOD CRP-124.6*
___ 06:30AM BLOOD CRP-66.0*
___ 06:48AM BLOOD CRP-40.7*
___ 06:30AM BLOOD HCV Ab-NEG
___ 06:30AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 07:30AM STOOL CDIFPCR-NEG

___ 7:30 am STOOL     CONSISTENCY: NOT APPLICABLE

   CYCLOSPORA STAIN (Pending): 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Pending): 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN.

 
Brief Hospital Course:
# Inflammatory bowel disease with flare: Improving with 
steroids.
Afebrile, diarrhea better, WBCs down-trending. 
Patient with history of IBD managed on Apriso (thought to be
Crohn's vs UC; Prometheus IBD serology negative) now presenting
with abdominal pain and multiple non-bloody bowel movements. CRP
elevated to ___. C. diff negative; other stool studies negative, 


She has significantly improved on IV steroids.  Per GI 
discussion with her outpatient GI Dr. ___ can be 
discharged and has follow-up with Dr. ___ on ___, at 
which time Dr. ___ likely initiate Humira.
Her CRP has improved today to 40.7.

- changed to PO Prednisone today 40 mg daily which she will 
continue until seen by Dr. ___ as outpatient when he plans to 
initiate Humira  
- avoid NOSAIDs
- PPD implanted ___ was read negative today with 0 mm 
induration. 
- GI consulted, flex sig done "Her
flexible sigmoidoscopy today confirmed rectal sparing with
significant ___ 3 disease from 25 cm to the extent of the
sigmoidoscopy at 50 cm.
" 
- follow pathology from flex sig

# Leukocytosis: Likely secondary to inflammation as above is 
improved now. 

CHRONIC/STABLE PROBLEMS:
# Hypertension:
- resume home regimen

# Hyperlipidemia:
- Continue statin

# Vitamin D deficiency:
- Continue vitamin D supplementation

# IPMN:
- Patient due for repeat MRCP to evaluate, would defer to Dr. 
___ as OP. 

She is medically stable for discharge today.
Plan discussed with patient and GI fellow in detail.
OP PCP and Dr. ___ ups have been scheduled. 

Total time spent in dc process by me was >30 mins, spent in 
counseling patient and discharge coordination. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. mesalamine 1.5 g oral DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Vitamin D ___ UNIT PO DAILY 
4. amLODIPine 5 mg PO DAILY 
5. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
2.  amLODIPine 5 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  Cyanocobalamin 1000 mcg PO DAILY  
5.  mesalamine 1.5 g oral DAILY  
6.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
IBD flare

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
you came in with diarrhea and abdominal pain, this was thought 
to be secondary to IBD flare and you were treated with 
intravenous steroids. you were seen by GI and underwent 
sigmoidoscopy here. you are feeling better now, your diarrhea is 
improving. you are medically stable for discharge home today on 
oral prednisone. 
Please continue oral prednisone until your are seen your 
outpatient gastroenterologist and they are in process of 
arranging humira that you may need started as outpatient. 

you had PPD placed here which was negative. 

we wish you all the best, your ___ team. 
 
Followup Instructions:
___